US06004977
2,3-Dihydro-2-(4-pyridinylamino)-1H-isoindol-5-ol hydrobromide
A solution of 2,3-dihydro-5-methoxy-N-(4-pyridinyl)-1 H-isoindol-2-amine (5.25 g) in 48% hydrobromic acid (35 ml) was heated under reflux for 5 hrs, with stirring. The reaction mixture was cooled to about 10° C. and filtered. The filter cake was washed with cold water and dried under vacuum in an oven at 80° C. to give 4.8 g (72%) of product. The product was recrystallized from water and dried under vacuum at 80° C. to give 3.1 g (46%) of the analytical sample, mp 261-264° C.

reactant | 2,3-dihydro-5-methoxy-N-(4-pyridinyl)-1 H-isoindol-2-amine | 5.25 g | COC=1C=C2CN(CC2=CC1)NC1=CC=NC=C1 | C14H15N3O
reactant | hydrobromic acid | 35 ml | Br | BrH
product | 2,3-Dihydro-2-(4-pyridinylamino)-1H-isoindol-5-ol hydrobromide | 4.8 g, 72% | Br.N1=CC=C(C=C1)NN1CC2=CC=C(C=C2C1)O | InChI=1S/C13H13N3O.BrH/c17-13-2-1-10-8-16(9-11(10)7-13)15-12-3-5-14-6-4-12;/h1-7,17H,8-9H2,(H,14,15);1H
